US20010018423A1
A) Preparation of EtSO2-D-Phe-OH
To a stirring suspension of D-phenylalanine (50 g, 300 mmol) in THE (400 mL) was added N,O-bis(trimethylsilyl) acetamide (92 g, 450 mmol). After stirring for 12 h, the solution was cooled to −78° C. and N,N-diisopropylethylamine (58 mL, 330 mmol) was added. To this solution was slowly added ethanesulfonyl chloride (31 mL, 330 mmol) and the cold bath was removed. After stirring for 20 h, the solvents were removed in vacuo and the residue was partitioned between saturated aqueous NaHCO3 and ethyl acetate. The aqueous phase was washed with diethyl ether, acidified with solid citric acid and extracted twice with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried with MgSO4, filtered and concentrated in vacuo to give 61 g (79%) of a thick colorless oil.

reactant | D-phenylalanine | 300 mmol, 50 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | N,O-bis(trimethylsilyl) acetamide | 450 mmol, 92 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | N,N-diisopropylethylamine | 330 mmol, 58 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanesulfonyl chloride | 330 mmol, 31 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | EtSO2-D-Phe-OH | 61 g, 79% | C(C)S(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C11H15NO4S
